US05262509
B. Synthesis of 4,4'-Diaminostilbene
A portion (20.27 grams, 0.075 mole) of 4,4'-dinitrostilbene from A above, concentrated hydrochloric acid (150 milliliters) and ethanol (300 milliliters) are added to a beaker and heated to provide a 60° C. stirred solution. Over the next eight hour period, 325 mesh powdered iron is added to the reaction mixture in aliquots until a total of 33-51 grams (0.60 mole) has been added. After completion of the iron addition, the mixture is heated for 16 hours at 60° C. then diluted with ethanol (250 milliliters) and deionized water (250 milliliters). After cooling to 25° C. , the product is filtered. The resultant solution is treated with 50% aqueous sodium hydroxide sufficient to induce precipitation of a pale tan colored product which is recovered by filtration. The recovered filter cake is washed with deionized water (500 milliliters) then dried in a vacuum oven at 100° C. and 2 mm Hg to a constant weight of 11.3 grams. The product is recovered as a pale tan colored solid. Fourier transform infrared spectrophotometric analysis of a potassium chloride pellet of the product confirms the product structure: Disappearance of the absorbances observed for the conjugated nitro group, appearance of --NH2 stretching absorbances at 3436 (3462 shoulder) and 3356 (3376 shoulder) cm-1, a --NH2 bending absorbance at 1616 cm-1 (1603 cm-1 shoulder due to aromatic ring absorbance) , an out-of-plane C--H deformation at 970 cm-1 due to the trans substituted ethylene group and a C--H out-of-plane bending vibration at 832 cm-1 due to the paradisubstituted aromatic rings. Proton nuclear magnetic resonance spectroscopy further confirms the product structure.

reactant | 4,4'-dinitrostilbene | 0.075 mole, 20.27 grams | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H10N2O4
reactant | hydrochloric acid | 150 milliliters | Cl | ClH
solvent | ethanol | 250 milliliters | C(C)O | C2H6O
solvent | water | 250 milliliters | O | H2O
catalyst | iron | [Fe] | Fe
solvent | ethanol | 300 milliliters | C(C)O | C2H6O
product | 4,4'-Diaminostilbene | NC1=CC=C(C=C1)C=CC1=CC=C(C=C1)N | C14H14N2
